US06855512B2
6-Hydroxy-4,4-dimethyl-1,2,3,4-tetrahydronaphthalene-1-one (Intermediate 10)
A stirred, cooled (−78° C.) solution of 6-methoxy-4,4-dimethyl-1,2,3,4-tetrahydronaphthalene-1-one Intermediate 9, 0.8, 3 mmol) under argon was treated with a 1M solution of boron tribromide (10 mL). The reaction mixture was allowed to warm to ambient temperature and stirred overnight. The reaction mixture was cooled to −78° C., quenched and diluted with saturated aqueous sodium bicarbonate solution and the aqueous phase was extracted with dichloromethane (×2). The combined organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to an oil. Flash column chromatography over silica gel (230-400 mesh) using 30% ethyl acetate in hexane as the eluent afforded the title compound (0.3 g, 52%) as a yellow viscous oil.

reactant | 6-methoxy-4,4-dimethyl-1,2,3,4-tetrahydronaphthalene-1-one | COC=1C=C2C(CCC(C2=CC1)=O)(C)C | C13H16O2
solvent | boron tribromide | 10 mL | B(Br)(Br)Br | BBr3
product | 6-Hydroxy-4,4-dimethyl-1,2,3,4-tetrahydronaphthalene-1-one | 0.3 g, 52% | OC=1C=C2C(CCC(C2=CC1)=O)(C)C | C12H14O2
